US06858764B2
2-bromofluorenone
In a three-liter flask having four openings equipped with a stirrer, a thermometer, a dropping funnel, and a reflux condenser, respectively, 256 g (1.4 mol) of fluorenone, 1 L of water, three drops of a surfactant, and five drops of sulfuric acid were placed and stirred to mix. By adding 250 g (1.6 mol) of bromine into the mixture, a reaction was started. After the reaction had been conducted at 50° C. for 12 hours, unreacted bromine was decomposed with an aqueous solution of sodium hydrogen sulfite. The reaction product, which was a dark yellow solid, was filtered and thus 365 g of a crude product was obtained. The crude product was dissolved in toluene and was subsequently washed with water and a sodium hydrogencarbonate aqueous solution. The resulting organic liquid was dried using anhydrous magnesium sulfate. After filtration, the liquid was concentrated and then allowed to stand at 0° C., so that a yellow solid was precipitated. The precipitate was filtered and subsequently washed with toluene, followed by drying. Thus, 339 g (1.3 mol, yield of 92%) of a yellow solid product was obtained. This product was subjected to gas chromatography and the purity of the product was 99.4%.

reactant | fluorenone | 1.4 mol, 256 g | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
reactant | water | 1 L | O | H2O
reactant | bromine | 1.6 mol, 250 g | BrBr | Br2
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
catalyst | sulfuric acid | five drops | S(O)(O)(=O)=O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-bromofluorenone | 1.3 mol, 339 g, yield of 92% | BrC=1C(C2=CC3=CC=CC=C3C2=CC1)=O | C13H7BrO
